US06730695B2
a) tert-Butyl 4-chloro-3-trifluoromethyl-phenylcarbamate
This compound is prepared according to the procedure described in step B a) of Preparation 1.5, from 4-chloro-3-trifluoromethylaniline and di-tert-butyl dicarbonate in dioxane. The expected product is obtained in the form of an oil which solidifies; m.p.=90° C.

reactant | 4-chloro-3-trifluoromethylaniline | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-chloro-3-trifluoromethyl-phenylcarbamate | ClC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)C(F)(F)F | C12H13ClF3NO2
